US07485739B2
Preparation of 1,2-bis-(di-iso-butylphosphinomethyl)ferrocene
The title compound was prepared in accordance with the procedure of Example 2 employing di-iso-butylphosphine (Strem 486 mg, 3.33 mmol), 1,2-bis(dimethylaminomethyl)ferrocene (0.5 g, 1.66 mmol) and anhydrous acetic acid (100 ml). Yield 0.372 g.

reactant | di-iso-butylphosphine | 3.33 mmol, 486 mg | C(C(C)C)PCC(C)C | C8H19P
reactant | 1,2-bis(dimethylaminomethyl)ferrocene | 1.66 mmol, 0.5 g | CN(C)C[C-]1C(=CC=C1)CN(C)C.[CH-]1C=CC=C1.[Fe+2]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,2-bis-(di-iso-butylphosphinomethyl)ferrocene | C(C(C)C)P(CC(C)C)C[C-]1C(=CC=C1)CP(CC(C)C)CC(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C23H43P2.C5H5.Fe/c1-18(2)12-24(13-19(3)4)16-22-10-9-11-23(22)17-25(14-20(5)6)15-21(7)8;1-2-4-5-3-1;/h9-11,18-21H,12-17H2,1-8H3;1-5H;/q2*-1;+2
